2144-02-25 09:42:00 Physician Attending Progress Note
Chief Complaint: wide complex tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2144-2-24**] 11:38 PM
   - loaded with amiodarone
   - treated with procainamide
   - transferred to ICU
   Denied chest pain and symptoms.
   Clinically, fairly stable overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-25**] 08:00 AM
   Other medications:
   please see [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-25**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 64 (64 - 81) bpm
   BP: 114/68(80){98/56(68) - 121/68(80)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                     13 mL
                                                                  1,394 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                     13 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                  1,294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   109 K/uL
   110 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   30 mg/dL
   109 mEq/L
   138 mEq/L
   31.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
   WBC
   6.0
   6.2
   4.7
   Hct
   30.1
   36.4
   31.7
   Plt
   84
   104
   109
   Cr
   2.0
   1.9
   1.9
   TCO2
   21
   Glucose
   131
   84
   110
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   ECG: Two EKGs reviewed.  One shows a narrow-complex, regular
   tachycardia with what appears to be a short RP interval.  In another,
   there is a wide-complex tachycardia without criteria specifically
   diagnostic for VT.
   Assessment and Plan
   66 y/o man with metastatic renal cell cancer brought to ICU for
   wide-complex tachycardia concerning for ventricular tachycardia.
   > ventricular tachycardia (vs. SVT with aberrancy)
   He is certainly high risk for VT given RV met.  We will ask cardiology
   to consult on the best anti-arrhythmic therapy for him, as well as
   whether any other approaches might offer benefit.
   > renal cell ca s/p nephrectomy with metastatic disease (including
   brain and heart)
   No acute treatment
   > chronic kidney disease (baseline cr ~ 2)
   Follow for now
   > DVT
   [**Month (only) 60**] need IVC filter (previously planned).  However, it is unclear to me
   if his
pulmonary emboli
 represent tumor or clot.  Check LENI.  Unless
   there is lower extremity clot I would probably avoid IVC filter.  Will
   discuss with Dr. [**Last Name (STitle) **].
   ICU Care
   Nutrition: POs
   Lines:
   22 Gauge - [**2144-2-24**] 11:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   Communication:  with patient and son
   [**Name (NI) 66**] status: No CPR, no intubation, cardioversion OK
   Disposition : ICU for now ; potentially floor if remains stable
   Total time spent: 30 min
   Patient is critically ill.

2144-02-25 11:15:00 Physician Resident Progress Note
Chief Complaint: ventricular tachycardia
   24 Hour Events:
 EKG - At [**2144-2-24**] 11:38 PM
   stable sinus rhythm overnight with no arrhythmias noted, no cardiac
   symptoms. This AM, no complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-25**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 60 (60 - 81) bpm
   BP: 117/62(75){98/56(68) - 121/68(80)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                     13 mL
                                                                  1,909 mL
   PO:
             540 mL
   TF:
   IVF:
                                                                     13 mL
                                                                  1,369 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                  1,809 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% on 4L
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, chronically ill
   appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/l bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   109 K/uL
   10.7 g/dL
   110 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   30 mg/dL
   109 mEq/L
   138 mEq/L
   31.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
   WBC
   6.0
   6.2
   4.72/11
   Hct
   30.1
   36.4
   31.7
   Plt
   84
   104
   109
   Cr
   2.0
   1.9
   1.9
   TCO2
   21
   Glucose
   131
   84
   110
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: [**2-24**] LUMBO-SACRAL SPINE X RAYS
   IMPRESSION:
   1.  Known metastatic lesions of L1 and L2 are better seen on recent CT
   torso,
   [**2143-12-23**]. Minimal sclerosis of L1 and L2 and mild loss of anterior
   height of
   L1.
   2.  No new metastatic lesions identified.
   Assessment and Plan
   # Tachyarrhythmias: Likely Vtach insterspersed with supraventricular
   tachycardia. Pt remains asymptomatic throughout these episodes.
   Tachyarrhtymias likely originate from RV mass (metastatic RCC to RV).
   No surgical interventions indicated for pt.
   - EP consult today
   - If goes into VT again, could consider lidocaine, but if unstable
   would sedate and shock
   - if narrow-complex tachycardia, try diltiazem IV
   .
   # Pulmonary embolism: hx of PE in [**2142**]. Now with new PE per V/Q scan in
   ED (high prob of RUL mismatch). Not a candidate for anticoagulation
   given hemorrhagic mets to brain seen on recent MR.
   - Plan initially to have IVC filter placed by IR, which is now on hold
   given VTach.
   - If clot is actually tumor related (originates in RV), an IVC filter
   would not help
   - LENI's in AM to assess for DVT  as source of PE
   - no anticoagulation [**2-15**] bleeding risk in brain
   .
   # Metastatic papillary renal cell carcinoma: Followed by Dr. [**Last Name (STitle) **]
   - contact onc in AM
   .
   # Hypertension: Continue beta blocker, caution in setting of
   tachyarrhtymias
   .
   # Back pain: With hx of known mets to L1 and L2 and now s/p fall prior
   to admission, w/ back pain.
   - L and T spine x-rays ruled out new mets, no new fractures
   - no need to image coccyx as treatment would be pain control
   - Dilaudid PRN
   .
   # Hypercholesterolemia: Continue statin
   .
   # CRF: Creatinine has been ranging between 2.2 and 3.0 over the last
   month in the context of receiving temsirolimus. Currently at baseline.
   - will moniter
   .
   # Type 2 Diabetes mellitus: Continue 70/30 and NPH
   - additional HISS
   .
   # Depression: cont Mirtazapine and Venlafaxine
   .
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2144-2-24**] 11:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI (Do not intubate. If VT and can shock out of it,
   do so; shock him out; no compressions. confirmed with pt upon arrival
   to [**Hospital Unit Name 44**].)
   Disposition:ICU

2144-02-26 07:32:00 Physician Resident Progress Note
Chief Complaint: 66M with metastatic RCC admitted initially with afib
   with [**Hospital **] transferred to [**Hospital Unit Name 44**] post episode of suspected VT
   24 Hour Events:
   No further tachyarrhythmias
   LENIs without evidence of DVT
   Seen by Cardiology, recommended IV amiodarone and no shock if
   asymptomatic VT
   Seen by Oncology, rec home with VNA bridge to hospice
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-25**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, not lightheaded
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-2-26**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 64 (60 - 80) bpm
   BP: 128/65(79){108/49(68) - 148/68(84)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    No further tachyarrhythmias on telemetry
   Total In:
                                                                  3,182 mL
                                                                     91 mL
   PO:
                                                                  1,260 mL
   TF:
   IVF:
                                                                  1,922 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    400 mL
   Urine:
                                                                    575 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,607 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Head, Ears, Nose, Throat: no JVD
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   140 K/uL
   10.7 g/dL
   122 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   28 mg/dL
   111 mEq/L
   139 mEq/L
   30.3 %
   4.8 K/uL
        [image002.jpg]
   LENIS
   FINDINGS:  Grayscale and Doppler son[**Name (NI) 872**] of the right and left common
   femoral, superficial femoral and popliteal veins are performed.  Normal
   flow,
   compressibility and augmentation is demonstrated.
   Incidental note is made of hypoechoic area overlying the right groin
   measuring
   1.8 x 2.2 x 2.9 cm containing internal echoes.  Just superior to this
   area
   there is a larger hypoechoic area with internal septations measuring
   4.3 x 2.6
   x 2.9 cm.
   IMPRESSION:
   1.  No evidence of deep vein thrombosis of the right or left lower
   extremity.
   2.  Right groin collections most consistent son[**Name (NI) 873**] in
   appearance with
   hematoma versus seroma.
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
                             [**2144-2-25**]  05:13 PM
                             [**2144-2-26**]  04:49 AM
   WBC
   6.0
   6.2
   4.7
   4.8
   Hct
   30.1
   36.4
   31.7
   30.3
   Plt
   84
   104
   109
   140
   Cr
   2.0
   1.9
   1.9
   2.0
   1.8
   TCO2
   21
   Glucose
   131
   84
   110
   121
   122
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1. Tachyarrhythmias:
   Per Ep, likely 2 separate arrhythmias one with RBBB morphology likely
   SVT and other with LBBB morphology SVT vs Vtach. Patient has h/o RV
   mass, surgery not an option.
   --IV amiodarone x48 hours with transition to PO amiodarone per EP recs
   --No shock if asymptomatic vtach
   2. PE:
   h/o PE [**2142**] with likely new PE based on V/Q scan this admission.  Not
   an anticoagulation candidate given brain mets. LENIs without evidence
   of DVT
   --No IVC filter per oncology, PE may originate from RV mass which would
   not be helped by IVC filter
   3. Metastatic papillary renal cell carcinoma: Followed by Dr. [**Last Name (STitle) **], no
   further tx
   4. Hypertension: Continue beta blocker
   5. Back pain: With hx of known mets to L1 and L2 and now s/p fall prior
   to admission, w/ back pain.
   - L and T spine x-rays ruled out new mets, no new fractures
   - no need to image coccyx as treatment would be pain control
   - Dilaudid PRN
   6. CRI: Creatinine has been ranging between 2.2 and 3.0 over the last
   month in the context of receiving temsirolimus. Currently at baseline.
   Urine output borderline, may benefit from maintenance IVF if poor PO.
   7. DM: Continue insulin, glucose adequately controlled
   8. Depression: cont Mirtazapine and Venlafaxine
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2144-2-24**] 11:48 PM
   20 Gauge - [**2144-2-25**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Stay in ICU while getting IV amiodarone if unable to
   receive it on floor

2144-02-26 11:16:00 Physician Attending Progress Note
Chief Complaint: wide-complex tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2144-2-25**] 10:00 AM
   r/o dvt.
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-26**] 08:00 AM
   Other medications:
   statin, keppra, effexor, SQI, amio gtt, metoprolol, SQH, others per [**Month (only) **]
   (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: [**1-15**] Minimal
   Pain location: back pain has improved
   Flowsheet Data as of  [**2144-2-26**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 63 (62 - 80) bpm
   BP: 144/69(87){112/49(68) - 152/69(87)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,182 mL
                                                                    517 mL
   PO:
                                                                  1,260 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,922 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    400 mL
   Urine:
                                                                    575 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,607 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   140 K/uL
   122 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   28 mg/dL
   111 mEq/L
   139 mEq/L
   30.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
                             [**2144-2-25**]  05:13 PM
                             [**2144-2-26**]  04:49 AM
   WBC
   6.0
   6.2
   4.7
   4.8
   Hct
   30.1
   36.4
   31.7
   30.3
   Plt
   84
   104
   109
   140
   Cr
   2.0
   1.9
   1.9
   2.0
   1.8
   TCO2
   21
   Glucose
   131
   84
   110
   121
   122
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   66 year old man with complex cardiac rhythms in the setting of renal
   cell carcinoma metastatic to the heart (among other locations).
   VENTRICULAR TACHYCARDIA (vs. SVT with aberrancy)
   - on amiodarone.  Needs infusion for 48 hours total and then oral, per
   EP.
   - would not cardiovert for asymptomatic VT, given risk of emboli
   - requires ICU care until amiodarone able to be converted oral
   PULMONARY EMBOLISM
   - may be tumor or clot
   - clot would likely be proximal to IVC filter
   ICU Care
   Nutrition: eating
   Glycemic Control:
   Lines:
   22 Gauge - [**2144-2-24**] 11:48 PM
   20 Gauge - [**2144-2-25**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35

2144-02-27 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no significant events overnight, no tachyarrythmias
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 62 (54 - 67) bpm
   BP: 142/63(80){113/52(69) - 148/74(87)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,390 mL
                                                                    337 mL
   PO:
                                                                  2,040 mL
             TF:
   IVF:
                                                                  1,350 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,290 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
 No significant change from yesterday, pt
   ambulating in ICU
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   10.7 g/dL
   122 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   28 mg/dL
   111 mEq/L
   139 mEq/L
   30.3 %
   4.8 K/uL
        [image002.jpg] NOTE: LABS FROM [**2-26**]
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
                             [**2144-2-25**]  05:13 PM
                             [**2144-2-26**]  04:49 AM
   WBC
   6.0
   6.2
   4.7
   4.8
   Hct
   30.1
   36.4
   31.7
   30.3
   Plt
   84
   104
   109
   140
   Cr
   2.0
   1.9
   1.9
   2.0
   1.8
   TCO2
   21
   Glucose
   131
   84
   110
   121
   122
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   No new micro or imaging
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
   -          appreciate EP recs, will finish IV amiodarone gtt today
   needs 7 days of po tid dosing after cessation of gtt
   -          po amio loading over one month schedule
   -          no shocks for asympomatic VT
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -          appreciate onc recs, no IVC filter
   -          bridge to hospice is most likely plan, no plans for chemo in
   near future
 PULMONARY EMBOLISM (PE), ACUTE - h/o PE [**2142**] with likely new PE based
   on V/Q scan this admission.  Not an anticoagulation candidate given
   brain mets
   -          no IVC filter per onc
 Hypertension: Continue beta blocker
 Back pain: With hx of known mets to L1 and L2 and now s/p fall prior
   to admission, w/ back pain.
   - L and T spine x-rays ruled out new mets, no new fractures
   - no need to image coccyx as treatment would be pain control
   - Dilaudid PRN
 CRI: Creatinine has been ranging between 2.2 and 3.0 over the last
   month in the context of receiving temsirolimus. Currently at baseline.
 DM: Continue insulin, glucose adequately controlled
 Depression: cont Mirtazapine and Venlafaxine
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed and
   SS insulin
   Lines:
   20 Gauge - [**2144-2-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor
   ------ Protected Section ------
   Critical Care Staff
   I saw and examined Mr. [**Known lastname 896**] with the the ICU team, including Dr.
   [**Last Name (STitle) 842**], whose note reflects my input.  He has been stable overnight,
   and is up and walking.  He had a telemetry alarm that on my review is
   pseudo-VT and not pathogenic.  He is ready for transfer to the floor
   when his amiodarone infusion is complete.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2144-2-27**] 13:54 ------

2144-02-28 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   No events yesterday
   This AM denies back pain, chest pain, palpitations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-27**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-28**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 61 (61 - 82) bpm
   BP: 123/61(76){103/46(74) - 149/73(90)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                    441 mL
                  PO:
                  TF:
   IVF:
                                                                    441 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    141 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, chronically ill appearing
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   137 K/uL
   10.5 g/dL
   109 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   31.2 %
   3.8 K/uL
        [image002.jpg]
                             [**2144-2-23**]  05:09 PM
                             [**2144-2-23**]  05:43 PM
                             [**2144-2-24**]  03:26 AM
                             [**2144-2-25**]  06:51 AM
                             [**2144-2-25**]  05:13 PM
                             [**2144-2-26**]  04:49 AM
                             [**2144-2-27**]  01:05 PM
   WBC
   6.0
   6.2
   4.7
   4.8
   3.8
   Hct
   30.1
   36.4
   31.7
   30.3
   31.2
   Plt
   84
   104
   109
   140
   137
   Cr
   2.0
   1.9
   1.9
   2.0
   1.8
   1.7
   TCO2
   21
   Glucose
   131
   84
   110
   121
   122
   109
   Other labs: PT / PTT / INR:11.4/27.8/0.9, Lactic Acid:1.6 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Imaging: none new
   Microbiology: none new
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
   -          s/p IV amiodarone gtt, continue 7 days of po tid dosing
   after cessation of gtt
   -          no shocks for asympomatic VT
   -          f/u any further EP recs
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -          appreciate onc recs, no IVC filter
   -          bridge to hospice is most likely plan, no plans for chemo in
   near future
 PULMONARY EMBOLISM (PE), ACUTE - h/o PE [**2142**] with likely new PE based
   on V/Q scan this admission.  Not an anticoagulation candidate given
   brain mets
   -          no IVC filter per onc
 Hypertension: Continue beta blocker
 Back pain: With hx of known mets to L1 and L2 and now s/p fall prior
   to admission, w/ back pain.
   - L and T spine x-rays ruled out new mets, no new fractures
   - no need to image coccyx as treatment would be pain control
   - Dilaudid PRN
 CRI: Creatinine has been ranging between 2.2 and 3.0 over the last
   month in the context of receiving temsirolimus. Currently at / below
   baseline.
 DM: Continue insulin, glucose adequately controlled
 Depression: cont Mirtazapine and Venlafaxine
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2144-2-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor